US06835732B2
[7-(2-Amino-thiazol-4-yl)-4-methoxy-benzothiazol-2-yl]-carbamic acid methyl ester
0.070 g of {4-methoxy-7-[2-(trityl-amino)-thiazol-4-yl]-benzothiazol-2-yl}-carbamic acid methyl ester (0.00012 Mol) were heated to reflux in 2 ml of 2.5 M HCl/MeOH for 4 hrs. After cooling to room temperature the pH was adjusted to 7 upon drop wise addition of sat. NaHCO3. A precipitate formed, which was filtered off, washed with ethyl acetate and dried. The title compound was obtained as a white solid (23%), F.p.: 293-296° C. (dec.).

reactant | {4-methoxy-7-[2-(trityl-amino)-thiazol-4-yl]-benzothiazol-2-yl}-carbamic acid methyl ester | 0.00012 Mol, 0.070 g | COC(NC=1SC2=C(N1)C(=CC=C2C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)OC)=O | C32H26N4O3S2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | HCl MeOH | 2.5 M, 2 ml | Cl.CO
product | [7-(2-Amino-thiazol-4-yl)-4-methoxy-benzothiazol-2-yl]-carbamic acid methyl ester | COC(NC=1SC2=C(N1)C(=CC=C2C=2N=C(SC2)N)OC)=O | C13H12N4O3S2
